US07915281B2
Triethylamine (17.0 mL, 123 mmol) was added to a 0° C. solution of 2,4-dichloro-3-nitroquinoline (20.0 g, 82.3 mmol) in dichloromethane (350 mL) followed by the dropwise addition of allylamine (5.90 mL, 78.2 mmol). The solution was allowed to stir and warm to room temperature overnight. The solvent was evaporated under reduced pressure and the resulting orange solid was suspended in water (300 mL). Solid sodium carbonate was added to adjust the pH to 10-11 and the suspension was stirred for 2 hours at 0° C. A yellow solid was isolated by filtration and dried under vacuum overnight to yield N-allyl-2-chloro-3-nitroquinolin-4-amine (21.7 g) that contained small amounts of an impurity and water.

reactant | Triethylamine | 123 mmol, 17.0 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-3-nitroquinoline | 82.3 mmol, 20.0 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])Cl | C9H4Cl2N2O2
reactant | allylamine | 78.2 mmol, 5.90 mL | C(C=C)N | C3H7N
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
product | N-allyl-2-chloro-3-nitroquinolin-4-amine | 21.7 g | C(C=C)NC1=C(C(=NC2=CC=CC=C12)Cl)[N+](=O)[O-] | C12H10ClN3O2
